US07238725B2
Intermediate 17: 4-Cyclopentyloxydibenzo[b,d]furan
Reaction of dibenzo[b,d]furan-4-ol (1 g, 5.43 mmol) with cyclopentyl bromide (1.60 g, 10.86 mmol) in the presence of 60% sodium hydride (326 mg, 8.12 mmol), gave 1.25 g (92%) of the product as viscous liquid, IR (neat) 2957, 2870, 1449, 1269, 1193 cm−1. 1H NMR (300 MHz, CDCl3) δ 1.57-1.72 (m, 2H), 1.84-1.89 (m, 2H), 1.93-2.04 (m, 4H), 5.01 (quint., 1H), 6.97 (d, J=8.1 Hz, 1H), 7.22 (t, J=7.9 Hz, 1H), 7.30 (t, J=8.1 Hz, 1H), 7.45 (t, J=8.1 Hz, 1H), 7.51 (d, J=7.8 Hz, 1H), 7.60 (d, J=8.2 Hz, 1H), 7.89 (d, J=8.1 Hz, 1H).

reactant | dibenzo[b,d]furan-4-ol | 5.43 mmol, 1 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)O | C12H8O2
reactant | cyclopentyl bromide | 10.86 mmol, 1.60 g | C1(CCCC1)Br | C5H9Br
reactant | sodium hydride | 8.12 mmol, 326 mg | [H-].[Na+]
product | 4-Cyclopentyloxydibenzo[b,d]furan | 1.25 g, 92% | C1(CCCC1)OC1=CC=CC2=C1OC1=C2C=CC=C1 | C17H16O2
